2123-05-23 05:26:00 Physician Resident Progress Note
According to the patient
s cousin, he requested that she be called from
   the ED prior to be intubated (a message was left on her machine). When
   she retrieved the message, she called the ICU to ask about his
   situation. When enough identifying characteristics were present
   (town/state of home address, general appearance, basic medical
   history), she was invited in to see the patient.
   Per my discussion with his cousin [**First Name4 (NamePattern1) 343**] [**Name (NI) 4793**], cell [**Telephone/Fax (1) 9140**],
   home [**Telephone/Fax (1) 9141**]), Mr. [**Known lastname 9142**] (or she says his real last name is
[**Name (NI) 9139**]
) comes from a family with lots of psychiatric illness. His
   living situation is unknown. His wife lives in a psychiatric facility,
   and the cousin has never met her. They are not close, although she says
   she last saw him in the fall and he called her as recently as two weeks
   ago.
   She is not comfortable making his healthcare decisions, and he is
   intubated and sedated. According to Ms. [**Last Name (Titles) 4793**], there are no other
   family members available to be his healthcare proxy; he does have four
   brothers, one of whom ([**Name (NI) 424**]) might be appropriate, but it is not
   clear how close Mr. [**Known lastname 9142**] and his brother [**Name (NI) 424**] are.
   As it stands, we will continue medical intensive care as we see
   appropriate. We do not have consent for procedures, intubation, or
   sedation at this time, but given his tenuous respiratory status, it is
   appropriate to continue. This was discussed with Dr. [**Last Name (STitle) 1165**], ICU
   attending.

2123-05-23 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2123-5-22**] 08:21 AM
 ARTERIAL LINE - START [**2123-5-22**] 01:00 PM
 BRONCHOSCOPY - At [**2123-5-22**] 03:15 PM
   No HCP proxy as cousin declined
   Bradycardic to 50s throughout the day
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2123-5-22**] 10:00 AM
   Metronidazole - [**2123-5-22**] 10:00 AM
   Ceftriaxone - [**2123-5-22**] 04:40 PM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Fentanyl - [**2123-5-23**] 07:48 AM
   Midazolam (Versed) - [**2123-5-23**] 07:49 AM
   Pantoprazole (Protonix) - [**2123-5-23**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2123-5-23**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-23**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 41 (41 - 86) bpm
   BP: 105/61(72) {89/54(62) - 105/73(80)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                  5,569 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                    409 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,040 mL
   Urine:
                                                                  1,930 mL
                                                                  1,040 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,139 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.34/47/128/23/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Overweight / Obese. Awake despite significant
   sedative medications
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes)
   Skin:  no evident lesions
   Neurologic: Responds to: verbal stimuli, attempting to speak
   Labs / Radiology
   428 K/uL
   10.4 g/dL
   117 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   31.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2123-5-22**]  09:30 AM
                             [**2123-5-22**]  11:59 AM
                             [**2123-5-22**]  01:57 PM
                             [**2123-5-22**]  06:52 PM
                             [**2123-5-23**]  05:52 AM
                             [**2123-5-23**]  06:06 AM
   WBC
   16.3
   10.6
   Hct
   31.0
   31.5
   Plt
   457
   428
   Cr
   1.1
   1.1
   0.8
   TropT
   <0.01
   TCO2
   25
   26
   26
   Glucose
   107
   118
   117
   Other labs: Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Lactate:0.8
   Imaging: CXR:
   Microbiology: Rapid Viral panel uninterpretable
   BAL: 1+ Polys, no organism
   [**5-22**] BCx: pending
   Assessment and Plan
   This is a 48 yo male with ? COPD/Asthma, ? CAD (medical history remains
   unclear) with a history of previous intubation admitted from the ED for
   respiratory distress from either COPD or CHF.
   #. Respiratory Failure: The patient was intubated for airway protection
   and found to have RUL collapse/aspiration on CXR that has now cleared.
   By record review, the patient has a baseline pulmonary process, unclear
   if it is COPD or Asthma and has required intubation in the past.
   Initial work-up including bronchoscopy and BAL unrevealing for any
   clear infectious etiology or mucous plug.  Further complicating the
   clinical picture is the patient
s high requirement and relative
   ineffectiveness of Fentanyl/Midazolam as sedative agents.
   - F/U BAL Cx
   - D/C levo/flagyl, continue CTX to cover for aspiration PNA
   - MDIs, Prednisone 60mg Daily x5 days
   - Currently on AC, attempt pressure support trial to transition to
   extubation
   - Change sedation to Propofol as patient should not have tolerance
   # . Hypotension: The patient has had hypotension overnight requiring
   decreasing amounts of norepinephrine. Given his clinical picture, the
   differential includes intubation medication reaction, cardiogenic
   shock, sepsis from PNA, auto-PEEP from high airways resistance.
   Currently he is requiring minimal pressor support, appears euvolemic
   and his airways resistance has decreased.
   -          F/U cultures and continue CTX for now as above.
   -          Wean levophed as tolerated and maintain MAP>65
   -          Trend Cardiac Enzymes
   #. Sinus Bradycardia: The patient has developed bradycardia overnight
   that cannot be explained easily by medications other than levophed or
   possibly prednisone. No history of bradycardia, no evidence of cardiac
   insult, possibly infected but no evidence of lyme.
   - Trend Cardiac Enzymes
   - Wean levophed
   - Considering holding Prednisone
   - Close cardiac monitoring, atropine if patient becomes unstable
   ICU Care
   Nutrition: Tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-5-22**] 08:21 AM
   20 Gauge - [**2123-5-22**] 08:22 AM
   Arterial Line - [**2123-5-22**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-05-24 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2123-5-23**] 11:16 PM
   - Bradycardic for much of the day, 80s by AM
   - Prednisone held as ? cause of bradycardia
   - A line removed as it was bleeding
   - Copious secretions, fighting ET tube, RT recommended against
   extubation
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2123-5-22**] 10:00 AM
   Metronidazole - [**2123-5-22**] 10:00 AM
   Ceftriaxone - [**2123-5-23**] 04:33 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2123-5-23**] 07:48 AM
   Midazolam (Versed) - [**2123-5-23**] 07:49 AM
   Pantoprazole (Protonix) - [**2123-5-23**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2123-5-23**] 04:33 PM
   Propofol - [**2123-5-23**] 04:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 80 (39 - 94) bpm
   BP: 110/60(74) {82/33(42) - 110/61(74)} mmHg
   RR: 16 (7 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    809 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                    689 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    420 mL
   Urine:
                                                                  1,870 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,061 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese. Awake despite significant
   sedative medications
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes)
   Skin:  no evident lesions
   Neurologic: Responds to: verbal stimuli, attempting to speak
   Labs / Radiology
   315 K/uL
   9.6 g/dL
   116 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   12 mg/dL
   108 mEq/L
   144 mEq/L
   29.4 %
   5.9 K/uL
        [image002.jpg]
                             [**2123-5-22**]  09:30 AM
                             [**2123-5-22**]  11:59 AM
                             [**2123-5-22**]  01:57 PM
                             [**2123-5-22**]  06:52 PM
                             [**2123-5-23**]  05:52 AM
                             [**2123-5-23**]  06:06 AM
                             [**2123-5-24**]  03:50 AM
   WBC
   16.3
   10.6
   5.9
   Hct
   31.0
   31.5
   29.4
   Plt
   457
   428
   315
   Cr
   1.1
   1.1
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   25
   26
   26
   Glucose
   107
   118
   117
   116
   Other labs: Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: CK: 32  MB: 3  Trop-T: <0.01
   Imaging: CXR: ET tube 4cm from carina. R diaphragm obscured by fluffy
   opacity
   Microbiology: BCx pending
   Assessment and Plan
   This is a 48 yo male with ? COPD/Asthma, ? CAD (medical history remains
   unclear) with a history of previous intubation admitted from the ED for
   respiratory distress from either COPD or CHF.
   #. Respiratory Failure: The patient was intubated for airway protection
   and found to have RUL collapse/aspiration on CXR that has now cleared.
   By record review, the patient has a baseline pulmonary process, unclear
   if it is COPD or Asthma and has required intubation in the past.
   Initial work-up including bronchoscopy and BAL unrevealing for any
   clear infectious etiology or mucous plug.  Further complicating the
   clinical picture is the patient
s high requirement and relative
   ineffectiveness of Fentanyl/Midazolam as sedative agents.
   - F/U BAL Cx
   - D/C levo/flagyl, continue CTX to cover for aspiration PNA
   - MDIs, Prednisone 60mg Daily x5 days
   - Currently on AC, attempt pressure support trial to transition to
   extubation
   - Change sedation to Propofol as patient should not have tolerance
   # . Hypotension: The patient has had hypotension overnight requiring
   decreasing amounts of norepinephrine. Given his clinical picture, the
   differential includes intubation medication reaction, cardiogenic
   shock, sepsis from PNA, auto-PEEP from high airways resistance.
   Currently he is requiring minimal pressor support, appears euvolemic
   and his airways resistance has decreased.
   -          F/U cultures and continue CTX for now as above.
   -          Wean levophed as tolerated and maintain MAP>65
   -          Trend Cardiac Enzymes
   #. Sinus Bradycardia: The patient has developed bradycardia overnight
   that cannot be explained easily by medications other than levophed or
   possibly prednisone. No history of bradycardia, no evidence of cardiac
   insult, possibly infected but no evidence of lyme.
   - Trend Cardiac Enzymes
   - Wean levophed
   - Considering holding Prednisone
   - Close cardiac monitoring, atropine if patient becomes unstable
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2123-5-22**] 08:21 AM
   20 Gauge - [**2123-5-22**] 08:22 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2123-05-25 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Arterial Line replaced, PICC Placed
   - Sedation changed to lower dose propofol with Midazolam bonuses
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2123-5-22**] 10:00 AM
   Metronidazole - [**2123-5-22**] 10:00 AM
   Ceftriaxone - [**2123-5-24**] 04:25 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-24**] 08:23 AM
   Fentanyl - [**2123-5-24**] 02:20 PM
   Midazolam (Versed) - [**2123-5-24**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-24**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-25**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (42 - 105) bpm
   BP: 103/60(68) {83/37(51) - 106/69(75)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,479 mL
                                                                    575 mL
   PO:
             TF:
                                                                    424 mL
                                                                    213 mL
   IVF:
                                                                  2,896 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                    926 mL
                                                                    460 mL
   Urine:
                                                                    926 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,553 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (528 - 541) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.40/41/102/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese. Lightly sedated.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes)
   Skin:  no evident lesions
   Neurologic: Lightly sedated, limited exam given propensity to agitation
   Labs / Radiology
   292 K/uL
   9.9 g/dL
   84 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   13 mg/dL
   107 mEq/L
   140 mEq/L
   29.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2123-5-22**]  11:59 AM
                             [**2123-5-22**]  01:57 PM
                             [**2123-5-22**]  06:52 PM
                             [**2123-5-23**]  05:52 AM
                             [**2123-5-23**]  06:06 AM
                             [**2123-5-24**]  03:50 AM
                             [**2123-5-24**]  10:33 AM
                             [**2123-5-24**]  11:09 AM
                             [**2123-5-24**]  05:02 PM
                             [**2123-5-25**]  04:52 AM
   WBC
   10.6
   5.9
   5.1
   Hct
   31.5
   29.4
   29.7
   Plt
   428
   315
   292
   Cr
   1.1
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   25
   26
   26
   32
   31
   26
   Glucose
   118
   117
   116
   84
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Fluid analysis / Other labs: PT: 12.5  PTT: 27.0  INR: 1.1
   Imaging: CXR: PICC in Subclavian vein. ET Tube 4cm from carina.  Lung
   fields otherwise clear.
   Microbiology: Sputum: [**10-24**] PMNs and <10 epithelial cells/100X field.
   NO MICROORGANISMS SEEN.
   Assessment and Plan
   This is a 48 yo male who was intubated in the ED and admitted to the
   [**Hospital Unit Name 44**] for ? COPD/Asthma and possible peri-intubational aspriation.  He
   continues to have bradycardia and high sedation requirements overnight
   resulting in hypotension as well as copious thin non-purulent
   secretions.
   #. Respiratory Failure: The patient remains intubated today after apnea
   on a spontaneous breathing trial, new copious secretions and continued
   difficulty with sedation.  His culture data remains negative and CXR
   has cleared, as has his physical exam.  Although the initial
   circumstances for his intubation are unclear, all logical ones are
   improving.  At this point we will not work toward extubation via
   secretion management, lightening of sedation and another SBT.
   -          Sputum cx
   -          Continue to hold steroids, continue MDIs
   -          F/U Cultures
   -          SBT today
   -          Continue CTX
   -          Replace A-line today
   #. Transient  Hypotension: Secondary to sedation, changed to propofol
   lower dose with Midaz boluses
   #. Sinus Bradycardia: The patient has continued bradycardia overnight
   that does resolve with agitation. DDx includes remnant fentanyl effect,
   vagal tone from intubation, ? prednisone effect.  No history of
   bradycardia, no evidence of cardiac insult, possibly infected but no
   evidence of lyme.  Remains otherwise hemodynamically stable
   - Holding Prednisone
   - Close cardiac monitoring, atropine if patient becomes unstable
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   A- Line placed
   Multi Lumen - [**2123-5-22**] 08:21 AM
   20 Gauge - [**2123-5-22**] 08:22 AM
   PICC Line - [**2123-5-24**] 03:00 PM (Midline)
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Cannot locate a HCP to sign consent
   Code status: Full code
   Disposition:ICU

2123-05-26 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2123-5-25**] 11:15 AM
 MULTI LUMEN - STOP [**2123-5-25**] 04:14 PM
   - self extubated
   - still requiring facemask O2
   - restarted prednisone but patient refusing
   - threatening to leave AMA but agreed to stay
   Allergies:
   Penicillins
   Unknown;
   Terbutaline
   Unknown;
   Epinephrine
   Unknown;
   Glucocorticoids
   Confusion/Delir
   Alupent (Oral) (Metaproterenol Sulfate)
   Unknown;
   Iodine
   Unknown;
   Prednisone
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2123-5-24**] 04:25 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2123-5-25**] 08:00 AM
   Furosemide (Lasix) - [**2123-5-25**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-26**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-26**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 82 (78 - 99) bpm
   BP: 109/45(60) {96/42(47) - 135/94(97)} mmHg
   RR: 24 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    838 mL
                  PO:
                  TF:
                                                                    213 mL
   IVF:
                                                                    626 mL
   Blood products:
   Total out:
                                                                  6,245 mL
                                                                    260 mL
   Urine:
                                                                  6,245 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,407 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.38/50/98.[**Numeric Identifier 248**]/30/2
   Ve: 12.8 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Overweight / Obese. Not intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes)
   Skin:  no evident lesions
   Neurologic: Lightly sedated, limited exam given propensity to agitation
   Labs / Radiology
   272 K/uL
   10.7 g/dL
   77 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.3 mEq/L
   11 mg/dL
   102 mEq/L
   142 mEq/L
   30.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2123-5-23**]  05:52 AM
                             [**2123-5-23**]  06:06 AM
                             [**2123-5-24**]  03:50 AM
                             [**2123-5-24**]  10:33 AM
                             [**2123-5-24**]  11:09 AM
                             [**2123-5-24**]  05:02 PM
                             [**2123-5-25**]  04:52 AM
                             [**2123-5-25**]  11:06 AM
                             [**2123-5-25**]  06:20 PM
                             [**2123-5-26**]  04:31 AM
   WBC
   10.6
   5.9
   5.1
   5.6
   Hct
   31.5
   29.4
   29.7
   30.9
   Plt
   428
   315
   292
   272
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   26
   32
   31
   26
   31
   Glucose
   117
   116
   84
   84
   77
   Other labs: Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.6 mg/dL
   Fluid analysis / Other labs: ALT: 6 AP: 61 Tbili: 0.5 Alb: 3.6
   AST: 8 LDH: 155
   Imaging: None
   Microbiology: None
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 BRADYCARDIA
   This is a 48 yo male who was intubated in the ED and admitted to the
   [**Hospital Unit Name 44**] for ? COPD/Asthma and possible peri-intubational aspriation.  He
   is doing well post self-extubation requiring only nasal cannula.
   Bradycardia and hypotension resolved.
   #. Respiratory Failure: The patient has a reported COPD & Asthma as
   well as MI/Heart failure history.  Significant diuresis yesterday after
   40mg IV Lasix.  Continues to refuse oral and inhaled prednisone because
   of past psychosis.
   -          Start continue MDIs, Continue discussion re: Steroids and
   Advair [**Hospital1 **] with the patient
   -          F/U Cultures
   -          Continue Azithro x2 more days
   -          Echo to evaluate cardiac function
   -          O/P Pulm follow up with PFTs
   #. Sinus Bradycardia: Resolved.
   ICU Care
   Nutrition: Advance diet today to regular heart healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-5-22**] 08:22 AM
   PICC Line - [**2123-5-24**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to medical floor